US05140011
400 mg (0.85 mmol) of t-butyl (4S,5S)-5-[(S)-2-benzoyl-3-methylbutyl]-4-(cyclohexylmethyl)-2,2-dimethyl-3-oxazolidinecarboxylate are dissolved in 15 ml of methanol and treated with 4.7 ml (18 mmol) of 3.9M hydrochloric acid in methanol. The reaction mixture is thereafter stirred at room temperature for 20 hours and subsequently evaporated under reduced pressure. The residue is dissolved in 5 ml of methanol and the solution is treated with 0.2 ml (1.8 mmol) of trimethyl orthoformate and a few crystals of p-toluenesulphonic acid and stirred at room temperature for 2 hours and at 50° for 2 hours. Thereafter, the reaction mixture is poured into 2N sodium bicarbonate solution and extracted with methylene chloride. The methylene chloride extracts are dried over magnesium sulphate and evaporated under reduced pressure, whereby there is obtained 0.27 g of (αS,2S,4S)-α-(cyclohexylmethyl)tetrahydro-4-isopropyl-5-methoxy-5-phenyl-2-furanmethanamine as an oil, MS: 313 (M-CH3OH)+.

reactant | t-butyl (4S,5S)-5-[(S)-2-benzoyl-3-methylbutyl]-4-(cyclohexylmethyl)-2,2-dimethyl-3-oxazolidinecarboxylate | 0.85 mmol, 400 mg | C(C1=CC=CC=C1)(=O)[C@@H](C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1CCCCC1)C(C)C | C29H45NO4
reactant | hydrochloric acid | 18 mmol, 3.9M, 4.7 ml | Cl | ClH
reactant | trimethyl orthoformate | 1.8 mmol, 0.2 ml | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | 2N | C([O-])(O)=O.[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | (αS,2S,4S)-α-(cyclohexylmethyl)tetrahydro-4-isopropyl-5-methoxy-5-phenyl-2-furanmethanamine | 0.27 g | C1(CCCCC1)C[C@H](N)[C@H]1OC([C@@H](C1)C(C)C)(C1=CC=CC=C1)OC | C22H35NO2
